US06720320B2
methyl (S)-4-glycidyloxybenzo(b)furan-2-carboxylate
To a solution (60 ml) of methyl 4-hydroxybenzo(b)furan-2-carboxylate (3.6 g) in DMF were added (S)-glycidyl nosylate (5.1 g) and potassium carbonate (6.5 g) and the mixture was stirred at room temperature for 8 hr. The reaction mixture was concentrated under reduced pressure and ethyl acetate was added to the residue. The mixture was washed with water, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give the title compound (4.1 g) as a yellow crystalline compound.

reactant | methyl 4-hydroxybenzo(b)furan-2-carboxylate | 60 ml, 3.6 g | OC1=CC=CC=2OC(=CC21)C(=O)OC | C10H8O4
reactant | (S)-glycidyl nosylate | 5.1 g | S(=O)(=O)(OC[C@@H]1CO1)C1=CC=C([N+](=O)[O-])C=C1 | C9H9NO6S
reactant | potassium carbonate | 6.5 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | methyl (S)-4-glycidyloxybenzo(b)furan-2-carboxylate | 4.1 g | C([C@@H]1CO1)OC1=CC=CC=2OC(=CC21)C(=O)OC | C13H12O5
